US07557114B2
(c) 4-Fluoro-5-iodo-phthalic acid dimethyl ester
To a stirred solution of 19.4 mmol 4-fluoro-5-iodo-phthalic acid in 60 ml DMF was added 58.1 mmol potassium carbonate. The mixture was then warmed to 35° C. and 38.7 mmol methyl iodide was added dropwise. The mixture was heated at 35° C. for 2 h and then at 60° C. for 4 h before being concentrated in vacuo. The residue was resuspended in ethyl acetate and water and the phases were separated The organic phase was washed sequentially with 0.5 M aq. sodium hydroxide solution and with brine, then dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant ethyl acetate/heptane) to afford the title compound as an orange oil (53% yield). EI-MS (m/e): 338.0 (M+, 50%), 307.0 ([M−OMe]+, 100%).

reactant | 4-fluoro-5-iodo-phthalic acid | 19.4 mmol | FC=1C=C(C(C(=O)O)=CC1I)C(=O)O | C8H4FIO4
reactant | potassium carbonate | 58.1 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 38.7 mmol | CI | CH3I
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 4-Fluoro-5-iodo-phthalic acid dimethyl ester | 53% yield | COC(C=1C(C(=O)OC)=CC(=C(C1)I)F)=O | C10H8FIO4
